US06982348B2
1,1-dimethylethyl (1RS,2SR)-2-hydroxy-2-(4-pyridyl)-1-((4-(trifluoromethyl)phenyl)methyl)ethylcarbamate
To a solution of 1,1-dimethylethyl (4RS,5SR)-2-oxo-5-(4-pyridyl)-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidine-3-carboxylate (500 mg, 1.18 mmol) in methanol (2.8 ml) was added 0.5N sodium hydroxide (2.8 ml, 1.40 mmol), and the mixture was stirred at room temperature for 1 hr. To the reaction solution was added water (20 ml), and the mixture was extracted with ethyl acetate (20 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give the title compound (391 mg, 83%).

reactant | 1,1-dimethylethyl (4RS,5SR)-2-oxo-5-(4-pyridyl)-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidine-3-carboxylate | 1.18 mmol, 500 mg | O=C1OC(C(N1C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C(F)(F)F)C1=CC=NC=C1 | C21H21F3N2O4
reactant | sodium hydroxide | 1.40 mmol, 0.5N, 2.8 ml | [OH-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | methanol | 2.8 ml | CO | CH4O
product | 1,1-dimethylethyl (1RS,2SR)-2-hydroxy-2-(4-pyridyl)-1-((4-(trifluoromethyl)phenyl)methyl)ethylcarbamate | 391 mg, 83% | OC(C(CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O)C1=CC=NC=C1 | C20H23F3N2O3
